US07812028B2
Preparation of 6-((R)-sec-Butoxy)-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 5, using 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester, 4-chlorophenyl-boronic acid (commercially available), (R)-(−)-2-butanol (commercially available), and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (ISP): 403.5 (MH+).

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)Cl | C7H5BrClNO2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (R)-(−)-2-butanol | C[C@H](CC)O | C4H10O
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 6-((R)-sec-Butoxy)-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | [C@@H](C)(CC)OC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C22H27ClN2O3
